US05439925
(a) 2-(1-Adamantyl)-5-bromophenol
17 g (0.1 mol) of 3-bromophenol, 15.22 g (0.1 mol) of 1-adamantanol and 50 ml of dichloromethane are introduced into a round-bottomed flask. 5 ml of concentrated sulphuric acid are added dropwise and the mixture is stirred at room temperature for 24 hours. The reaction medium is poured into water, the mixture is neutralized with sodium bicarbonate and extracted with ethyl ether and the organic phase is separated after settling has taken place, then dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column and eluted with a mixture of dichloromethane and hexane (50:50). After evaporation of the solvents, 15.2 g (50%) of the expected phenol, melting point 112°-114° C., are collected.

reactant | 3-bromophenol | 0.1 mol, 17 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 1-adamantanol | 0.1 mol, 15.22 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(1-Adamantyl)-5-bromophenol | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C=C2)Br)O | C16H19BrO
